US04910212
A mixture of methyl (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-naphthylmethanesulphonate (0.2 g) and 1-trityl-4-methylimidazole (0.172 g) in acetonitrile (10 ml) was stirred and heated under reflux for 72 h. The acetonitrile was evaporated under reduced pressure, and the residue was dissolved in 90% by volume aqueous acetic acid (20 ml). This acetic acid solution was heated under reflux for 24 h, and then evaporated to dryness under reduced pressure, and the residue was dissolved in a mixture of ethylacetate (25 ml) and water (25 ml). The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate (40 ml). The combined ethyl acetate solutions were dried and evaporated to dryness, and the residue was purified by flash column chromatography on silica (K60), using methanol/dichloromethane, 2:98 by volume, then methanol/dichloromethane, 5:95 by volume, as the eluting solvent, to give (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-(5-methylimidazol-1 -ylmethyl)naphthalene as a colourless gum. Nmr in CDCl3 : δ 7.25(2H, d); 6.95(3H, m); 6.7(2H, m); 6.5(1H, dd); 5.95(1H, d); 3.85(3H, s); 3.8(3H, s); 3.65(2H, m); 3.3(1H, m); 3.05(3H, m); 2.15(2H, m); 1.65 (3H, s).

reactant | methyl (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-naphthylmethanesulphonate | 0.2 g | COC=1C=C2CC[C@H]([C@H](C2=CC1)CS(=O)(=O)OC)C1=CC=C(C=C1)OC | C20H24O5S
reactant | 1-trityl-4-methylimidazole | 0.172 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C | C23H20N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (1R*,2R*)-1,2,3,4-tetrahydro-6-methoxy-2-(4-methoxyphenyl)-1-(5-methylimidazol-1 -ylmethyl)naphthalene | COC=1C=C2CC[C@H]([C@H](C2=CC1)CN1C=NC=C1C)C1=CC=C(C=C1)OC | C23H26N2O2
